*** rails ***
V1   v+ 0 DC 10
V2   v- 0 DC -10

*** input ***
R45 in  9 33k
C5  in+ 9 10u
R10 in+ ref 470

*** "ladder" ***
* voltage divider for base biases
R11  ref s1b 150
R12  s1b s2b 150
R13  s2b s3b 150
R14  s3b s4b 150
R15  s4b v+ 220

* input bias / reference
C6 ref 0 200u
R7 ref 0 220

* input LTP
Q3  s1- in+ lt Q2N3904
Q4  s1+ in- lt Q2N3904
* "stage 1"
C1  s1- s1+ 10n
Q5  s2- s1b s1- Q2N3904
Q6  s2+ s1b s1+ Q2N3904
* "stage 2"
C2  s2- s2+ 10n
Q7  s3- s2b s2- Q2N3904
Q8  s3+ s2b s2+ Q2N3904
* "stage 3"
C3  s3- s3+ 10n
Q9  s4- s3b s3- Q2N3904
Q10 s4+ s3b s3+ Q2N3904
* "stage 4"
C4  s4- s4+ 10n
Q11 v+ s4b s4- Q2N3904
Q12 v+ s4b s4+ Q2N3904

*** output buffer ***
R17 v+  fb  220
R18 fb  out 1k
R20 13  v-  220k
R21 blt v-  1k
R22 14  v-  220k

C7  b-  s4- 220n
R19 b-  0   47k

C8  b+  s4+ 220n
R23 b+  0   47k

Q13 out b- 13 Q2N3904
Q14 out 13 blt Q2N3904
Q15 v+ b+ 14 Q2N3904
Q16 v+ 14 blt Q2N3904

*** dc blocking on output ***
C10 out dcb 10u
R24 dcb 0 100k

*** feedback ***
C9 fb 17 10u
* resonance 50k log
R114 18 17 1000
* trimmer 1k + 150
R9A 20 in- 990
R9B 18 in- 10
R8  20 ref 150

*** expo current source ***
* built with pnp-buffered npn transistor,
* in this case we just use a current source
R6  ci lt 680
Is1 ci 0  10u

* input signal 50hz 0...1 pulse
V4 in 0 DC 0 PULSE(-5 5 0 10u 10u 5m 10m)

.TRAN 10u 2000m 1800m 10u

.MODEL Q2N3904 NPN(IS=6.73E-15 BF=416.4 VAF=74.03 IKF=0.06678 ISE=6.73E-15 NE=1.259 BR=0.7374 RB=10 RC=1 CJE=4.5E-12 TF=3.012E-10 XTF=2 VTF=4 ITF=0.4 CJC=3.638E-12 MJC=0.3085 TR=2.395E-7 XTB=1.5 KF=9E-16 )
.END
